US05395990
methyl caprate;
A process according to claim 20, in which the cyclohexanedimethanol is 1,4-cyclohexanedimethanol, the dialkyl cyclohexanedicarboxylate is dimethyl 1,4-cyclohexanedicarboxylate, the hydrogenation zone is maintained at a temperature of from about 200° C. to about 260° C. and a pressure of from about 450 psia (about 31.03 bar) to about 1000 psia (about 68.95 bar).

reactant | cyclohexanedimethanol | C1(CCCCC1)(CO)CO | C8H16O2
reactant | 1,4-cyclohexanedimethanol | C1(CCC(CC1)CO)CO | C8H16O2
reactant | dimethyl 1,4-cyclohexanedicarboxylate | C1(CCC(CC1)C(=O)OC)C(=O)OC | C10H16O4
product | methyl caprate | O(C(=O)CCCCCCCCC)C | C11H22O2
